US08049016B2
Preparation of 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carbonitrile
Following the procedure as describe in Preparation 20, making variations as required to replace 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxamide with 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide, the title compound was obtained as a pale yellow solid in 68% yield: mp 136-139° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.35-7.31 (m, 2H), 7.18-7.13 (m, 2H), 4.41 (s, 2H), 4.00 (t, J=6.0 Hz, 2H), 3.46 (t, J=6.0 Hz, 2H) 2.37 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ162.1 (d), 161.4, 161.1, 155.3, 150.3, 132.8 (d), 130.5 (d), 115.9 (d), 114.4, 92.4, 46.6, 42.7, 42.3, 17.3; MS (ES+) m/z 317.9 (M+1).

reactant | 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxamide | FC1=CC=C(CN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)N)C=C1 | C14H12FN5O2S
reactant | 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide | FC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)N)=O)C=C1 | C15H15FN4O2S
product | 2-(3-(4-fluorobenzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carbonitrile | 68% yield | FC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C)C#N)=O)C=C1 | C15H13FN4OS
